US09428508B2
To a solution of (S)-2-aminopropanoic acid (60 g, 0.67 mol) in acetic acid (400 ml) was added NaNO2 (93 g, 1.34 mol) several portions at 0° C. After addition, the mixture was stirred at room temperature for 4 hours. After removed the acetic acid, water added and then extracted with ether. The organic phase was collected, dried, concentrated to afford (R)-2-acetoxypropanoic acid (30 g, 35%). 1H NMR (400 MHz, CDCl3) δ ppm, 11.70 (s, 2H), 5.02-5.07 (q, 1H), 2.07 (s, 3H), 1.46-1.52 (d, 3H).

reactant | (S)-2-aminopropanoic acid | 0.67 mol, 60 g | N[C@H](C(=O)O)C | C3H7NO2
reactant | NaNO2 | 1.34 mol, 93 g | N(=O)[O-].[Na+]
solvent | acetic acid | 400 ml | C(C)(=O)O | C2H4O2
product | (R)-2-acetoxypropanoic acid | 30 g, 35% | C(C)(=O)O[C@@H](C(=O)O)C | C5H8O4
